US06635640B2
Palladium catalyst Pd(PPh3)4 (693 mg, 0.6 mmol) and freshly prepared aqueous sodium hydroxide (3.2 g in 29 mL of water) were added to a mixture of 4-(4,4,5,5-tetramethyl[1,3,2]-dioxaborolan-2-yl)-1H-indole (4.9 g, 20.2 mmol) and 5-bromonicotinic acid (4.04 g, 20 mmol) in THF (70 mL). The system was degassed and then purged three times with nitrogen. The mixture was refluxed under nitrogen for 6 hours. It was then cooled to room temperature and ethyl acetate (400 mL) added. The organic layer was separated and washed twice with 2N NaOH solution. The aqueous layer and hydroxide washes were combined, washed with dichloromethane and then acidified with 6N HCl. The resulting precipitate was collected by vacuum filtration, washed with water and dried to give 2.3 g (48%) 5-(1H-indol-4-yl)-nicotinic acid.

reactant | sodium hydroxide | 29 mL, 3.2 g | [OH-].[Na+]
reactant | 4-(4,4,5,5-tetramethyl[1,3,2]-dioxaborolan-2-yl)-1H-indole | 20.2 mmol, 4.9 g | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | 5-bromonicotinic acid | 20 mmol, 4.04 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
catalyst | Palladium | 0.6 mmol, 693 mg | [Pd] | Pd
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 5-(1H-indol-4-yl)-nicotinic acid | 2.3 g, 48% | N1C=CC2=C(C=CC=C12)C=1C=NC=C(C(=O)O)C1 | C14H10N2O2
